US07282522B2
Subsequently, 34.7 g of methyl 4-(phenylcarbonylamino)benzoate was dissolved in 500 mg of methanol and thereto 50 mg of 10% KOH was added. After stirring for 3 hours, the mixture was neutralized with hydrochloric acid and then filtered, to give an acid compound, 4-(phenylcarbonylamino) benzoic acid (26.2 g, 80% yield).

reactant | methyl 4-(phenylcarbonylamino)benzoate | 34.7 g | C1(=CC=CC=C1)C(=O)NC1=CC=C(C(=O)OC)C=C1 | C15H13NO3
reactant | KOH | 50 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 500 mg | CO | CH4O
product | 4-(phenylcarbonylamino) benzoic acid | 26.2 g, 80% yield | C1(=CC=CC=C1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C14H11NO3
